US07557114B2
(c) 3-Bromo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
To a 0° C. solution of 0.18 mmol 3-bromo-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine in 0.5 ml chloroform and 0.5 ml methanol was added dropwise 1 ml trifluoroacetic acid. After 5 minutes stirring at 0° C. and 30 minutes at RT, the reaction mixture was concentrated. The residue was taken in water/ether and 1 ml 1N HCl was added. The aqueous phase was extracted with ether (2 times), then basified with 5N NaOH and extracted with dichloromethane (3 times). Combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo to yield the title compound as a light yellow solid. MS (m/e): 199.0 (M+, 100%)

reactant | 3-bromo-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 0.18 mmol | BrC=1C=C2C(=NC1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21BrN2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.5 ml | CO | CH4O
product | 3-Bromo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | BrC=1C=C2C(=NC1)CNC2 | C7H7BrN2
